US04956359
(E)-N-(2-Butenyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A mixture of 3.6 g (0.022 mole) of 1,1'-carbonyldiimidazole and 1.6 g (0.022 mole) of trans-crotylamine was stirred for 1 hr, then treated with 6.2 g (0.02 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate and followed in 0.5 hr with 5 ml of triethylamine with stirring continued for 16 hr. The partially crystalline mixture was washed with 2×50 ml of water, dried over magnesium sulfate and concentrated on a rotary evaporator to a solid residue, 14.2 g. Recrystallization from methanol-water yielded 5.35 g (85.1%) of fine white crystals, m.p. 157°-158° C.

reactant | 1,1'-carbonyldiimidazole | 0.022 mole, 3.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trans-crotylamine | 0.022 mole, 1.6 g | C(\C=C\C)N | C4H9N
reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C1=CC=C(OC2CNC2)C=C1)(F)F
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | (E)-N-(2-Butenyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 5.35 g, 85.1% | C(\C=C\C)NC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C15H17F3N2O2
